US04032527
A mixture of 2-(4-dimethylamino)benzoyl)benzoic acid (8.07 g.), N,N,N',N'-tetraethyl-m-phenylenediamine (7.26 g.) and acetic anhydride (5 ml.) was heated (at 52° C.) during one and one-half hours. Addition of methanol (10 ml., then 15 ml.) afforded 3-(2,4-bis(diethylamino)phenyl)-3-(4-(dimethylamino)phenyl)phthalide (I: X= (CH3CH2)2N, Y2 = Z4 = Z5 = Z6 = Z7 = H, Y4 = (CH3)2N) (10.92 g., m.p. 117°- 119° C.).

reactant | benzoic acid | 8.07 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N,N,N',N'-tetraethyl-m-phenylenediamine | 7.26 g | C(C)N(C1=CC(=CC=C1)N(CC)CC)CC | C14H24N2
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | CO | CH4O
product | 3-(2,4-bis(diethylamino)phenyl)-3-(4-(dimethylamino)phenyl)phthalide | 10.92 g | C(C)N(C1=C(C=CC(=C1)N(CC)CC)C1(OC(=O)C2=CC=CC=C12)C1=CC=C(C=C1)N(C)C)CC | C30H37N3O2
